US04379154
A solution of pyridazin-3-ylmethyl 3-chloropropyl sulphide (28.2 g) in anhydrous tetrahydrofuran (35 cc) is added dropwise, in the course of 15 minutes and whilst keeping the temperature below -20° C., to a solution of potassium tert.-butoxide (24 g) in a mixture of anhydrous hexamethylphosphorotriamide (35 cc) and anhydrous tetrahydrofuran (190 cc). The reaction mixture is subsequently stirred for 1 hour 30 minutes at -40° C. and is then run, at 0° C., into a mixture of distilled water (500 cc) and diethyl ether (500 cc). After decantation, the aqueous phase is extracted with diethyl ether (250 cc). The ether extracts are combined, washed three times with distilled water (1500 cc in total), dried over anhydrous sodium sulphate and filtered, and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 30° C. 2-(Pyridazin-3-yl)-tetrahydrothiophen (10.5 g) is thus obtained in the form of a brown oil.

reactant | pyridazin-3-ylmethyl 3-chloropropyl sulphide | 28.2 g | ClCCCSCC=1N=NC=CC1 | C8H11ClN2S
reactant | potassium tert.-butoxide | 24 g | CC(C)([O-])C.[K+]
reactant | hexamethylphosphorotriamide | 35 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | water | 500 cc | O | H2O
solvent | tetrahydrofuran | 35 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 190 cc | O1CCCC1 | C4H8O
solvent | diethyl ether | 500 cc | C(C)OCC | C4H10O
product | 2-(Pyridazin-3-yl)-tetrahydrothiophen | 10.5 g | N1=NC(=CC=C1)C1SCCC1 | C8H10N2S
